US07601844B2
Step-4: 6-Trifluoromethyl-3H-pyrido[3,2-d]pyrimidin-4-one
6.8 g (0.0332 mol, 1 eq) of 3-amino-6-trifluoromethyl-pyridine-2-carboxylic acid amide in 170 ml of triethylorthoformate under nitrogen was heated at 145° C. for 8 h. Excess triethylorthoformate was removed under reduced pressure and the solid product obtained was washed with pet-ether and dried under vacuum to get 6.8 g (95.37%) of white solid. 1H NMR (CDCl3, 400 MHz): 8.11 (1H, d), 8.35 (1H, d), 12.28 (1H, bs). MS 216 (M+H)+.

reactant | 3-amino-6-trifluoromethyl-pyridine-2-carboxylic acid amide | 0.0332 mol, 6.8 g, 1 eq | NC=1C(=NC(=CC1)C(F)(F)F)C(=O)N | C7H6F3N3O
reactant | triethylorthoformate | 170 ml | C(C)OC(OCC)OCC | C7H16O3
product | 6-Trifluoromethyl-3H-pyrido[3,2-d]pyrimidin-4-one | 6.8 g, 95.37% | FC(C=1C=CC=2N=CNC(C2N1)=O)(F)F | C8H4F3N3O
